US06352993B1
5,6dimethyl-2-(cyclopentylamino)-4-(1-methyl-1,2,3,4tetrahydroisoquinolin-2-yl)pyrirnidine hydrochloride
After cyclopentylamine(0.26 ml, 2.61 mmol) and triethylamine(0.36 ml, 2.59 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.5 g, 1.74 mmol) in dimethylformamide, 550 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | cyclopentylamine | 2.61 mmol, 0.26 ml | C1(CCCC1)N | C5H11N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6dimethyl-2-(cyclopentylamino)-4-(1-methyl-1,2,3,4tetrahydroisoquinolin-2-yl)pyrirnidine hydrochloride | 550 mg, Yield 84.8% | Cl.CC=1C(=NC(=NC1C)NC1CCCC1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C21H28N4.ClH/c1-14-15(2)22-21(23-18-9-5-6-10-18)24-20(14)25-13-12-17-8-4-7-11-19(17)16(25)3;/h4,7-8,11,16,18H,5-6,9-10,12-13H2,1-3H3,(H,22,23,24);1H
